US06610707B1
Benzyl N-[(1S)-2-{[((Z)-amino{(2S)-1-[(cyclohexylmethyl)sulfonyl]piperidyl}methylidene)amino]oxy}-2-oxo-1-phenylethyl]carbamate
The title compound was prepared by a similar method to Preparation 5 from (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide [see Preparation 28] and (2S)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoic acid to afford benzyl N-[(1S)-2-{[((Z)-amino{(2S)-1-[(cyclohexylmethyl)sulfonyl]piperidyl}methylidene)amino]oxy}-2-oxo-1-phenylethyl]carbamate as an oil.

reactant | (Z)-(2S)-1-[cyclohexylmethylsulfonyl]-N′2-hydroxy-2-piperidinecarboximidamide | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)/C(/N)=N/O | C13H25N3O3S
reactant | (2S)-2-{[(benzyloxy)carbonyl]amino}-2-phenylethanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C16H15NO4
product | benzyl N-[(1S)-2-{[((Z)-amino{(2S)-1-[(cyclohexylmethyl)sulfonyl]piperidyl}methylidene)amino]oxy}-2-oxo-1-phenylethyl]carbamate | N\C(\[C@H]1N(CCCC1)S(=O)(=O)CC1CCCCC1)=N/OC([C@H](C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C29H38N4O6S
